US04230714
A solution of 2-chloro-3-hydroxypyridine (12.95 g), 50% aqueous dimethylamine (15 ml) and 40% aqueous formaldehyde (10 ml) in water (30 ml) was heated on a steam bath for 21/2 hours and then allowed to stand at room temperature (20°) overnight. The solution was evaporated and the residue was taken up in chloroform. The solution was decanted off from some insoluble material, dried (Na2SO4) and evaporated to small bulk. An excess of ethereal hydrogen chloride was added and the resulting hydrochloride salt was filtered off and crystallised twice from isopropanol to give 2-(dimethylaminomethyl)-5-hydroxy-6-chloropyridine hydrochloride (5.70 g), m.p. 207°-209°.

reactant | 2-chloro-3-hydroxypyridine | 12.95 g | ClC1=NC=CC=C1O | C5H4ClNO
reactant | dimethylamine | 15 ml | CNC | C2H7N
reactant | formaldehyde | 10 ml | C=O | CH2O
solvent | water | 30 ml | O | H2O
product | 2-(dimethylaminomethyl)-5-hydroxy-6-chloropyridine hydrochloride | 5.70 g | Cl.CN(C)CC1=NC(=C(C=C1)O)Cl | InChI=1S/C8H11ClN2O.ClH/c1-11(2)5-6-3-4-7(12)8(9)10-6;/h3-4,12H,5H2,1-2H3;1H
